US07745451B2
D. 1-{6-[6-(3-chloro-pyridin-2-yl)-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-4-ylamino]-3,3-dimethyl-2,3-dihydro-indol-1-yl}-ethanone
A mixture of 1-(6-amino-3,3-dimethylindolin-1-yl)ethanone (80 mg), 4-chloro-6-(3-chloropyridin-2-yl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine (80 mg), and CH3CN (5 mL) was run in a Microwave Reactor at 180° C. for 1 h. After cooling, the mixture was treated with sat. aq. Na2CO3 and extracted with EtOAc (30 mL×3). The combined organic layers were washed with brine, dried (Na2SO4) and concentrated. The residue was purified by column to give a light yellow solid (75 mg).

reactant | 1-(6-amino-3,3-dimethylindolin-1-yl)ethanone | 80 mg | NC1=CC=C2C(CN(C2=C1)C(C)=O)(C)C | C12H16N2O
reactant | 4-chloro-6-(3-chloropyridin-2-yl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine | 80 mg | ClC=1C2=C(N=CN1)CCN(C2)C2=NC=CC=C2Cl | C12H10Cl2N4
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH3CN | 5 mL | CC#N | C2H3N
product | 1-{6-[6-(3-chloro-pyridin-2-yl)-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-4-ylamino]-3,3-dimethyl-2,3-dihydro-indol-1-yl}-ethanone | 75 mg | ClC=1C(=NC=CC1)N1CC2=C(N=CN=C2NC2=CC=C3C(CN(C3=C2)C(C)=O)(C)C)CC1 | C24H25ClN6O
